US07786114B2
3-[4-Chloro-5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-5,6-dimethoxy-1-[3-(4-methylperhydro-1,4-diazepin-1-yl)propyl]-1h-pyrrolo[3,2-b]pyridine can be prepared as in example 11, stage 11(c), but starting with 0.300 g of 3-[4-chloro-5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1-(3-iodopropyl)-5,6-dimethoxy-1H-pyrrolo[3,2-b]pyridine and 0.512 g of 1-methylperhydro-1,4-diazepine in 40 cm3 of dichloromethane. After flash chromatography on a column of silica [eluent: chloroform/methanol/28% aqueous ammonia (24/3/0.5 by volume)], 0.145 g of 3-[4-chloro-5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[3,2-b]pyridin-2-yl]-5,6-dimethoxy-1-[3-(4-methylperhydro-1,4-diazepin-1-yl)propyl]-1H-pyrrolo[3,2-b]pyridine is thus obtained as a resin with the following characteristics:

reactant | 3-[4-Chloro-5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-5,6-dimethoxy-1-[3-(4-methylperhydro-1,4-diazepin-1-yl)propyl]-1h-pyrrolo[3,2-b]pyridine | ClC1=C2C(=NC=C1F)N(C(=C2)C2=CN(C=1C2=NC(=C(C1)OC)OC)CCCN1CCN(CCC1)C)S(=O)(=O)C1=CC=C(C=C1)C | C32H36ClFN6O4S
reactant | 3-[4-chloro-5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1-(3-iodopropyl)-5,6-dimethoxy-1H-pyrrolo[3,2-b]pyridine | 0.300 g | ClC1=C2C(=NC=C1F)N(C(=C2)C2=CN(C=1C2=NC(=C(C1)OC)OC)CCCI)S(=O)(=O)C1=CC=C(C=C1)C | C26H23ClFIN4O4S
reactant | 1-methylperhydro-1,4-diazepine | 0.512 g | CN1CCNCCC1 | C6H14N2
reactant | dichloromethane | 40 cm3 | ClCCl | CH2Cl2
product | 3-[4-chloro-5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[3,2-b]pyridin-2-yl]-5,6-dimethoxy-1-[3-(4-methylperhydro-1,4-diazepin-1-yl)propyl]-1H-pyrrolo[3,2-b]pyridine | 0.145 g | ClN1C=2C(=CC=C1F)N(C(C2)C2=CN(C=1C2=NC(=C(C1)OC)OC)CCCN1CCN(CCC1)C)S(=O)(=O)C1=CC=C(C=C1)C | C32H38ClFN6O4S
